US09447114B2
To a solution of methyl 3-(5-(4-chlorobenzyl)-6-(4-chlorophenyl)-1-methyl-2,4-dioxo-1,2-dihydrothieno[2,3-d]pyrimidin-3(4H)-yl)propanoate (13 mg, 0.0258 mmol) in EtOH (1 mL) was added NaBH4 (2.9 mg, 0.0775 mmol). The reaction was stirred at 50° C. for 18 h, cooled to RT, quenched with aq. HCl (0.1 N, 2 mL) then concentrated to a residue which was purified by Prep HPLC to give 5-(4-chlorobenzyl)-6-(4-chlorophenyl)-3-(3-hydroxypropyl)-1-methylthieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (8.6 mg, 70.1% yield) as a white solid. 1H NMR (CD3OD) δ: 7.43 (d, J=8.4 Hz, 2H), 7.37 (d, J=8.4 Hz, 2H), 7.19 (d, J=8.4 Hz, 2H), 7.02 (d, J=8.4 Hz, 2H) 4.32 (S, 2H), 4.05 (t, J=7.2 Hz, 2H), 3.55-3.58 (m, 5H), 1.84-1.82 (m, 2H). LCMS: MH+ 475 and TR=3.131 min.

reactant | methyl 3-(5-(4-chlorobenzyl)-6-(4-chlorophenyl)-1-methyl-2,4-dioxo-1,2-dihydrothieno[2,3-d]pyrimidin-3(4H)-yl)propanoate | 0.0258 mmol, 13 mg | ClC1=CC=C(CC2=C(SC=3N(C(N(C(C32)=O)CCC(=O)OC)=O)C)C3=CC=C(C=C3)Cl)C=C1 | C24H20Cl2N2O4S
reactant | NaBH4 | 0.0775 mmol, 2.9 mg | [BH4-].[Na+]
solvent | EtOH | 1 mL | CCO | C2H6O
product | 5-(4-chlorobenzyl)-6-(4-chlorophenyl)-3-(3-hydroxypropyl)-1-methylthieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 8.6 mg, 70.1% yield | ClC1=CC=C(CC2=C(SC=3N(C(N(C(C32)=O)CCCO)=O)C)C3=CC=C(C=C3)Cl)C=C1 | C23H20Cl2N2O3S
